US07572820B2
B. 2-(Difluoromethyl)-1-({5-[3-(trifluoromethyl)phenyl]-1,2,4-oxadiazol-3-yl}methyl)-1H-indole-4,5-dicarbonitrile
Synthesized as described in Example 23 from 2-(difluoromethyl)-1H-indole-4,5-dicarbonitrile and 3-(chloromethyl)-5-[3-(trifluoromethyl)phenyl]-1,2,4-oxadiazole: MS (ES) m/z 444 (M+1).

reactant | 2-(difluoromethyl)-1H-indole-4,5-dicarbonitrile | FC(C=1NC2=CC=C(C(=C2C1)C#N)C#N)F | C11H5F2N3
reactant | 3-(chloromethyl)-5-[3-(trifluoromethyl)phenyl]-1,2,4-oxadiazole | ClCC1=NOC(=N1)C1=CC(=CC=C1)C(F)(F)F | C10H6ClF3N2O
product | 2-(Difluoromethyl)-1-({5-[3-(trifluoromethyl)phenyl]-1,2,4-oxadiazol-3-yl}methyl)-1H-indole-4,5-dicarbonitrile | FC(C=1N(C2=CC=C(C(=C2C1)C#N)C#N)CC1=NOC(=N1)C1=CC(=CC=C1)C(F)(F)F)F | C21H10F5N5O
